US07858632B2
2-Chloro-N-(2,4-dimethoxy-phenyl)-acetamide (45.8 g, 0.2 mol) was dissolved in 1000 mL methylene chloride, and the reaction mixture was stirred at 0° C. under nitrogen. Aluminum trichloride (78.9 g, 0.6 mol) was added in portions over 30 minutes, and the reaction mixture was allowed to stir for 17 hours at room temperature. The reaction mixture was concentrated to 200 mL volume under reduced pressure, and then poured onto ice. Solids were removed by filtration, and the liquid was taken up in EtOAc, washed with brine, dried (MgSO4), filtered, and evaporated under reduced pressure to yield 39.67 g of 2-Chloro-N-(2-hydroxy4-methoxy-phenyl)-acetamide. MS (M+H)=216.

reactant | 2-Chloro-N-(2,4-dimethoxy-phenyl)-acetamide | 0.2 mol, 45.8 g | ClCC(=O)NC1=C(C=C(C=C1)OC)OC | C10H12ClNO3
reactant | Aluminum trichloride | 0.6 mol, 78.9 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | methylene chloride | 1000 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-(2-hydroxy4-methoxy-phenyl)-acetamide | 39.67 g | ClCC(=O)NC1=C(C=C(C=C1)OC)O | C9H10ClNO3
